US07417060B2
To a solution of methyl 3-(isopropylthio)-4′-[2-methyl-2-[(trifluoroacetyl)amino]propyl]-4-biphenylcarboxylate (810 mg) in ethanol was added sodium hydroxide aqueous solution (1M, 9 ml) at room temperature and stirred under reflux for 4 hours. The resultant mixture was evaporated. The residue was dissolved with hydrogen chloride solution in ethanol (5.5M, 12 ml) and stirred at room temperature overnight. The resultant mixture was evaporated and dried to give ethyl 4′-(2-amino-2-methylpropyl)-3-(isopropylthio)-4-biphenylcarboxylate (384 mg).

reactant | methyl 3-(isopropylthio)-4′-[2-methyl-2-[(trifluoroacetyl)amino]propyl]-4-biphenylcarboxylate | 810 mg | C(C)(C)SC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)CC(C)(NC(C(F)(F)F)=O)C | C23H26F3NO3S
reactant | sodium hydroxide | 1M, 9 ml | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | ethyl 4′-(2-amino-2-methylpropyl)-3-(isopropylthio)-4-biphenylcarboxylate | 384 mg | NC(CC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OCC)SC(C)C)(C)C | C22H29NO2S
